US06384080B1
To a solution of (R)-N-(3,4-dimethoxybenzyl)-2-(2-hydroxy-1-methylethylamino)-5-nitrobenzamide (200 mg) in 1,2-dichloroethane (10 mL) were added trimethyloxonium tetrafluoroborate (91.2 mg) and 2,6-di-tert-butyl-4-methylpyridine (158 mg), and the mixture was heated for 3 hours under reflux. The mixture was washed with 1N-hydrochloric acid, water, an aqueous saturated sodium bicarbonate solution and brine. Then, the resultant was dried over magnesium sulfate and evaporated in vacuo. The residue was purified by a silica gel column chromatography eluting with a mixture of hexane and ethyl acetate (3:1 to 1:1). The obtained product was triturated with diisopropyl ether to give (R)-N-(3,4-dimethoxybenzyl)-2-(2-methoxy-1-methylethylamino)-5-nitrobenzamide as yellow powders (145 mg).

reactant | (R)-N-(3,4-dimethoxybenzyl)-2-(2-hydroxy-1-methylethylamino)-5-nitrobenzamide | 200 mg | COC=1C=C(CNC(C2=C(C=CC(=C2)[N+](=O)[O-])N[C@@H](CO)C)=O)C=CC1OC | C19H23N3O6
reactant | trimethyloxonium tetrafluoroborate | 91.2 mg | F[B-](F)(F)F.C[O+](C)C
reactant | 2,6-di-tert-butyl-4-methylpyridine | 158 mg | C(C)(C)(C)C1=NC(=CC(=C1)C)C(C)(C)C | C14H23N
solvent | 1,2-dichloroethane | 10 mL | ClCCCl | C2H4Cl2
product | (R)-N-(3,4-dimethoxybenzyl)-2-(2-methoxy-1-methylethylamino)-5-nitrobenzamide | 145 mg | COC=1C=C(CNC(C2=C(C=CC(=C2)[N+](=O)[O-])N[C@@H](COC)C)=O)C=CC1OC | C20H25N3O6
